* VCO 77G Testbench - IHP SG13G2 PDK
* Cross-coupled LC VCO, VCC=3.3V, ~76GHz

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ

.subckt VCO_77G OUTP OUTN VCC GND VTUNE
XQ1 OUTP OUTN tail GND npn13G2l Nx=2 selft=0
XQ2 OUTN OUTP tail GND npn13G2l Nx=2 selft=0
L1 VCC OUTP 100p
L2 VCC OUTN 100p
Cvar1 OUTP GND 30f
Cvar2 OUTN GND 30f
Itail tail GND DC 6m
.ends VCO_77G

Vcc vcc 0 3.3
Vtune vtune 0 1.5

XDUT outp outn vcc 0 vtune VCO_77G

.ic v(outp)=1.7 v(outn)=1.5

.tran 0.1p 500p uic

.control
run
meas tran vosc_p max v(outp) from=300p to=500p
meas tran vosc_n min v(outp) from=300p to=500p
let swing = vosc_p - vosc_n
print swing
wrdata /home/bthomas3/Videos/77GHz_phased_array/sim/vco_tran.txt v(outp) v(outn)
quit
.endc

.end