* VGA Testbench - Using actual xschem-extracted netlist
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.options method=gear reltol=1e-2 abstol=1e-8 vntol=1e-4 itl4=500 gmin=1e-11 trtol=7

** VGA subcircuit from xschem netlist (VGA_77G.sch)
.subckt VGA_77G VCC INP INN VCTRL GND sub OUTP OUTN
XQ1 OUTP INP net1 sub npn13G2l Nx=2 selft=0
XQ2 OUTN INN net1 sub npn13G2l Nx=2 selft=0
XQtail net1 VCTRL net2 sub npn13G2l Nx=4 selft=0
RL1 VCC OUTP 500
RL2 VCC OUTN 500
RE net2 GND 10
.ends VGA_77G

** Testbench
Vcc vcc 0 3.3
Vinp inp 0 DC 1.3 SIN(1.3 10m 10Meg)
Vinn inn 0 DC 1.3 SIN(1.3 -10m 10Meg)
Vctrl vctrl 0 0.95

XDUT vcc inp inn vctrl 0 0 outp outn VGA_77G

.tran 100p 200n

.control
run
meas tran vga_swing pp v(outp) from=20n to=200n
quit
.endc

.end