* VGA 77G Testbench - IHP SG13G2 PDK
* Variable-gm amplifier, VCC=3.3V

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

.subckt VGA_77G INP INN OUTP OUTN VCTRL VCC GND
XQ1 outp_i INP tail GND npn13G2l Nx=2
XQ2 outn_i INN tail GND npn13G2l Nx=2
XQtail tail VCTRL etail GND npn13G2l Nx=4
RL1 VCC outp_i 500
RL2 VCC outn_i 500
RE etail GND 10
R_outp outp_i OUTP 0.001
R_outn outn_i OUTN 0.001
.ends VGA_77G

Vcc vcc 0 3.3
Vinp inp 0 DC 1.1 AC 1m
Vinn inn 0 DC 1.1 AC -1m
Vctrl vctrl 0 DC 1.2

XDUT inp inn outp outn vctrl vcc 0 VGA_77G

.ac dec 100 1Meg 1G

.control
run
meas ac gain_db max vdb(outp) from=1e6 to=100e6
print gain_db
wrdata /home/bthomas3/Videos/77GHz_phased_array/sim/vga_ac.txt v(outp) v(outn)
quit
.endc

.end